US04931455
Synthesis of dl-5-chloro-6-ethyl-4-(6-acetoxyhexyl)aminopyrimidine (Compound No. 72)
In 10 ml of dichloromethane were dissolved 1.00 g of dl-5-chloro-6-ethyl-4-(6-hydroxyhexyl)aminopyrimidine and 0.40 g of acetyl chloride, and under stirring, 0.50 g of triethylamine was added to the solution and the mixture was stirred at room temperature for 30 minutes. After completion of the reaction, the reaction mixture was neutralized with an aqueous sodium carbonate solution and extracted with dichloromethane. After the organic layer was dried over anhydrous sodium sulfate, the solvent was removed under reduced pressure. The resulting oily product was isolated through a column chromatography (Wako gel C-200, trade name, eluent; toluene:ethyl acetate=4:1) to give 0.70 g of the title compound as pale yellow oily product. nD19.6 1.5228.

reactant | dl-5 chloro-6-ethyl-4-(6-hydroxyhexyl)aminopyrimidine | 1.00 g | COC1=C(C=CC(=C1)CNCCCNCCCCNCCCN)O.ClC1=NC(=CC(=N1)NCCCCCCO)CC
reactant | acetyl chloride | 0.40 g | C(C)(=O)Cl | C2H3ClO
reactant | triethylamine | 0.50 g | C(C)N(CC)CC | C6H15N
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
product | dl-5 chloro-6-ethyl-4-(6-acetoxyhexyl)aminopyrimidine | 0.70 g | COC1=C(C=CC(=C1)CNCCCNCCCCNCCCN)O.ClC1=NC(=CC(=N1)NCCCCCCOC(C)=O)CC | InChI=1S/C18H34N4O2.C14H22ClN3O2/c1-24-18-14-16(6-7-17(18)23)15-22-13-5-12-21-10-3-2-9-20-11-4-8-19;1-3-12-10-13(18-14(15)17-12)16-8-6-4-5-7-9-20-11(2)19/h6-7,14,20-23H,2-5,8-13,15,19H2,1H3;10H,3-9H2,1-2H3,(H,16,17,18)
